US04374843
A solution of 1.0 g (4.6 mmol) of 1-(2,4-dimethyl-5-imidazolyl)-2-bromoethanone in 50 ml of acetone was warmed and 0.55 g (4.6 mmol) of amidinothiourea was added. The mixture was heated at reflux for 1 hour, during which time a white solid precipitated. The precipitate was collected, washed with acetone, and dried to give 1.12 g (77%) of 2-guanidino-4-(2,4-dimethyl-5-imidazolyl)thiazole hydrobromide hemihydrate as a white solid, mp 273° (dc). nmr (D6DMSO) (δ): 8.4-7.2 (b, 7H); 7.00 (s, 1H); 2.50 (s, 3H); 2.38 (s, 3H). Anal. Calcd. for C7H12N6S.HBr.1/2H2O: C, 33.14; H, 4.33; N, 25.76; S. 9.83. Found: C, 33.47; H, 4.19; N, 25.93; S. 9.91.

reactant | 1-(2,4-dimethyl-5-imidazolyl)-2-bromoethanone | 4.6 mmol, 1.0 g | CC=1NC(=C(N1)C)C(CBr)=O | C7H9BrN2O
reactant | amidinothiourea | 4.6 mmol, 0.55 g | C(N)(=N)NC(=S)N | C2H6N4S
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | 2-guanidino-4-(2,4-dimethyl-5-imidazolyl)thiazole hydrobromide hemihydrate | 1.12 g, 77% | O.Br.N(C(=N)N)C=1SC=C(N1)C1=C(N=C(N1)C)C.N(C(=N)N)C=1SC=C(N1)C1=C(N=C(N1)C)C.Br | InChI=1S/2C9H12N6S.2BrH.H2O/c2*1-4-7(13-5(2)12-4)6-3-16-9(14-6)15-8(10)11;;;/h2*3H,1-2H3,(H,12,13)(H4,10,11,14,15);2*1H;1H2
